US07745467B2
11.1. Ethyl 5-trifluoromethyl-1-[(pyrid-4-yl)methyl]-1H-indole-2-carboxylate (Compound IV27)
A solution of 1.47 g (5.83 mmol) of 1,1′-(azodicarbonyl)dipiperidine in 50 ml of toluene is added dropwise to a solution of 1 g (3.89 mmol) of ethyl 5-trifluoromethyl-1H-indole-2-carboxylate, 0.63 g (5.83 mmol) of 4-pyridylcarbinol and 1.46 ml (5.83 mmol) of tributylphosphine in 50 ml of toluene. The reaction mixture is stirred overnight at room temperature and then concentrated under reduced pressure and chromatographed on a column of silica (eluent: dichloromethane/methanol). 1.05 g of expected product are obtained.

reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.83 mmol, 1.47 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | ethyl 5-trifluoromethyl-1H-indole-2-carboxylate | 3.89 mmol, 1 g | FC(C=1C=C2C=C(NC2=CC1)C(=O)OCC)(F)F | C12H10F3NO2
reactant | 4-pyridylcarbinol | 5.83 mmol, 0.63 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | tributylphosphine | 5.83 mmol, 1.46 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-trifluoromethyl-1-[(pyrid-4-yl)methyl]-1H-indole-2-carboxylate | 1.05 g | FC(C=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)OCC)(F)F | C18H15F3N2O2
